US05929072
7-Fluoroindole
2 Fluoronitrobenzene (20.0 g, 0.142 mol) was dissolved in dry tetrahydrofuran (400 ml) and cooled to -50° C. Vinylmagnesium chloride (288 ml, 15% wt/vol) was added at -45° C. and stirred at this temperature for one hour. Poured onto saturated ammonium chloride (600 ml). Separated and aqueous extracted with diethyl ether (2×200 ml). Dried (MgSO4), filtered and concentrated in vacuo to yield a dark oil which was purified by column chromatography on silica using toluene as mobile phase. Fractions concentrated to yield a crystalline solid.

reactant | Fluoronitrobenzene | 0.142 mol, 20.0 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Vinylmagnesium chloride | 288 ml | C(=C)[Mg]Cl
reactant | ammonium chloride | 600 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 7-Fluoroindole | FC=1C=CC=C2C=CNC12 | C8H6FN
